US07479502B2
Diisopropylethylamine (21.8 mL, 151.5 mmol) was added slowly to a magnetically stirred solution of 3-bromo-4-hydroxybenzonitrile (10 g, 50.5 mmol) and 2-methoxyethoxymethyl chloride (6.9 mL, 60.6 mmol) in dichloromethane (100 mL) and the mixture was stirred at room temperature for 30 minutes. The mixture was washed with 5% citric acid solution until the washings were acidic, dried and concentrated. Product was purified from the residue by chromatography (silica gel, 30% ethyl acetate/hexanes) gave 3-bromo-4-(2-methoxyethoxymethoxy)-benzonitrile (11.5 g).

reactant | Diisopropylethylamine | 151.5 mmol, 21.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-bromo-4-hydroxybenzonitrile | 50.5 mmol, 10 g | BrC=1C=C(C#N)C=CC1O | C7H4BrNO
reactant | 2-methoxyethoxymethyl chloride | 60.6 mmol, 6.9 mL | COCCOCCl | C4H9ClO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-bromo-4-(2-methoxyethoxymethoxy)-benzonitrile | 11.5 g | BrC=1C=C(C#N)C=CC1OCOCCOC | C11H12BrNO3
